US07253165B2
Synthesis of (R)-1-(4-benzo[b]thiophen-3-yl-phenoxy)-3-(2-chloro-benzylamino)-propan-2-ol (Scheme III, Compound 1)
The title compound is prepared from a mixture of 2-(4-benzo[b]thiophen-3-yl-phenoxymethyl)-oxirane, 2-chlorobenzylamine and ethanol essentially as described above in Example 94. Purity by LC/MS=99%, [M+H]+=424.

reactant | 2-(4-benzo[b]thiophen-3-yl-phenoxymethyl)-oxirane | S1C2=C(C(=C1)C1=CC=C(OCC3OC3)C=C1)C=CC=C2 | C17H14O2S
reactant | 2-chlorobenzylamine | ClC1=C(CN)C=CC=C1 | C7H8ClN
solvent | ethanol | C(C)O | C2H6O
product | (R)-1-(4-benzo[b]thiophen-3-yl-phenoxy)-3-(2-chloro-benzylamino)-propan-2-ol | S1C2=C(C(=C1)C1=CC=C(OC[C@@H](CNCC3=C(C=CC=C3)Cl)O)C=C1)C=CC=C2 | C24H22ClNO2S
